US04973600
19.3 g of an aqueous 10% sodium hypochlorite solution are added to a solution of 3.9 g of α-(1-methylpyrazol-5-yl)-2,3-dichloro-4,5-dimethoxybenzylalcohol in acetic acid and the mixture is stirred at room temperature for 2 hours. The reaction mixture is concentrated to remove acetic acid, and ethyl acetate is added to the residue. The organic layer is separated, washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 2.1 g of (1-methyl-4-chloropyrazol-5-yl)-(2,3-dichloro-4,5-dimethoxyphenyl)-methanone.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | α-(1-methylpyrazol-5-yl)-2,3-dichloro-4,5-dimethoxybenzylalcohol | 3.9 g | CN1N=CC=C1C(C1=C(C(=C(C(=C1)OC)OC)Cl)Cl)O | C13H14Cl2N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (1-methyl-4-chloropyrazol-5-yl)-(2,3-dichloro-4,5-dimethoxyphenyl)-methanone | 2.1 g | CN1N=CC(=C1C(=O)C1=C(C(=C(C(=C1)OC)OC)Cl)Cl)Cl | C13H11Cl3N2O3
